US07217730B2
4-Bromo-3-(2-hydroxy-ethyl)-7-methyl-1H-indole-6-carboxylic acid benzyl ester
A 1000 mL RBF was charged with 5-bromo-3-hydrazino-2-methyl benzoic acid benzyl ester hydrochloride (30.0 g, 0.081 mol), ethylene glycol (350 mL), and water (60 mL). This mixture was heated to 40° C., and dihydrofuran (7.63 mL, 0.101 mol) was added. The reaction mixture was next heated to 100–105° C. with stirring for 2.25 hours. The reaction was then cooled to ambient temperature, diluted with EtOAc, washed with saturated NaCl (2×), dried (MgSO4), and concentrated. The resulting oil was chromatographed on SiO2, eluting with a 10% EtOAc/DCM to 50% EtOAc/DCM gradient. Isolation of the product as an impure solid, followed by trituration with DCM and hexanes, afforded 8.45 g (27.0%) of a pale yellow solid. 1H NMR (CDCl3) δ 8.28 (br s, 1 H), 7.94 (s, 1H), 7.40 (m, 6H), 5.36 (s, 2H), 3.96 (q, J=6.4 Hz, 2H), 3.28 (t, J=6.4 Hz, 2H), 2.72 (s, 3H).

reactant | 5-bromo-3-hydrazino-2-methyl benzoic acid benzyl ester hydrochloride | 0.081 mol, 30.0 g | Cl.C(C1=CC=CC=C1)OC(C1=C(C(=CC(=C1)Br)NN)C)=O
reactant | ethylene glycol | 350 mL | C(CO)O | C2H6O2
reactant | water | 60 mL | O | H2O
reactant | dihydrofuran | 0.101 mol, 7.63 mL | O1CCC=C1 | C4H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Bromo-3-(2-hydroxy-ethyl)-7-methyl-1H-indole-6-carboxylic acid benzyl ester | 8.45 g, 27.0% | C(C1=CC=CC=C1)OC(=O)C1=CC(=C2C(=CNC2=C1C)CCO)Br | C19H18BrNO3
